US06645968B2
4-chloro-N-(2,2,2-trichloro-1-hydroxyethyl)benzamide
2,2,2-Trichloro-1,1-ethanediol and 4-chlorobenzamide were processed as described in Example 37C to provide the desired product.

reactant | 2,2,2-Trichloro-1,1-ethanediol | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | 4-chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
product | 4-chloro-N-(2,2,2-trichloro-1-hydroxyethyl)benzamide | ClC1=CC=C(C(=O)NC(C(Cl)(Cl)Cl)O)C=C1 | C9H7Cl4NO2
